US06469220B2
1-{3-(5-Norbornen-2-yl)propyl}cyclopentanol (yield: 86%) was obtained in the same manner as in Synthesis Example 1, except that cyclopentanone and 1-chloro-3-(5-norbornen-2-yl)propane were used in place of acetone and 1-chloro-4-(5-norbornen-2-yl)butane, respectively.

reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | 1-chloro-3-(5-norbornen-2-yl)propane | ClCCCC1C2C=CC(C1)C2 | C10H15Cl
product | 1-{3-(5-Norbornen-2-yl)propyl}cyclopentanol | yield: 86% | C12C(CC(C=C1)C2)CCCC2(CCCC2)O | C15H24O
